US08623859B2
N-cyclopropyl-4-methoxy-2,6-dimethyl-N-[(4-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonyl}furan-2-yl)methyl]benzenesulfonamide
The title compound was prepared according to general procedure AM using 5-({cyclopropyl[(4-methoxy-2,6 dimethylphenyl)sulfonyl]amino}methyl)furan-3-carboxylic acid (47 mg, 0.12 mmol), 1-(1-methylpiperidin-4-yl)piperazine (21 mg, 0.11 mmol), DIC (0.3 mL, 1.87 mmol), HOBt (29 mg, 0.19 mmol) and TEA (0.07 mL, 0.48 mmol) in DCM (5 mL). The crude product was purified using Isolute SCX-2 cartridge, washing with MeOH (3 mL) and eluting with 7N NH3 in MeOH (3 mL) to afford the title compound.

reactant | 5-({cyclopropyl[(4-methoxy-2,6 dimethylphenyl)sulfonyl]amino}methyl)furan-3-carboxylic acid | 0.12 mmol, 47 mg | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC1=CC(=CO1)C(=O)O | C18H21NO6S
reactant | 1-(1-methylpiperidin-4-yl)piperazine | 0.11 mmol, 21 mg | CN1CCC(CC1)N1CCNCC1 | C10H21N3
reactant | DIC | 1.87 mmol, 0.3 mL | CC(N=C=NC(C)C)C | C7H14N2
reactant | HOBt | 0.19 mmol, 29 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-cyclopropyl-4-methoxy-2,6-dimethyl-N-[(4-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonyl}furan-2-yl)methyl]benzenesulfonamide | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC=1OC=C(C1)C(=O)N1CCN(CC1)C1CCN(CC1)C | C28H40N4O5S
